US05166390
To a cooled (-78° C.), stirred solution of 2.0 g (0.0094 mol) of 2-octyl-4-isothiazolin-3-one in 50 ml of anhydrous tetrahydrofuran under nitrogen was added dropwise 2.82 ml (0.0028 mol) of a 1.0M solution of lithium aluminum hydride in tetrahydrofuran over a 20 min. period. After the addition the mixture was stirred at -78° C. for 1 hr. Over a 15 min period 1.24 ml (0.0094 mol) of phenylacetyl chloride was added. After this addition the mixture was allowed to warm to room temperature. After 12 hr the reaction mixture was a white solid suspended in an orange solution. The mixture was filtered and the filtrate was diluted with ethyl acetate and washed once with aqueous saturated sodium bicarbonate solution. The organic layer was set aside and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed once with water, with brine, and dried over anhydrous magnesium sulfate. Filtration and removal of solvents gave N-octyl-cis-3 -(phenylacetylthio)acrylamide as an oil which crystallized upon standing to give 3.0 g (96% yield) of a white solid whose NMR is reported in Table 2.

reactant | 2-octyl-4-isothiazolin-3-one | 0.0094 mol, 2.0 g | C(CCCCCCC)N1SC=CC1=O | C11H19NOS
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | phenylacetyl chloride | 0.0094 mol, 1.24 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-octyl-cis-3 -(phenylacetylthio)acrylamide | C(CCCCCCC)NC(\C=C/SC(CC1=CC=CC=C1)=O)=O | C19H27NO2S
